US05559106
1-(2-Carboxyethyl)-7-nitro[1,2,4]triazolo[4,3-a]quinoxalin-4(5H)-one
0.5 g (~1.5 mmol) of 1-(2-ethoxycarbonylethyl)-7-nitro[1,2,4]triazolo[4,3-a]quinoxalin-4(5H)-one was added to a mixture of 50 ml of water and 1.5 ml of 2N sodium hydroxide. Stirring was continued for 24 h at 25° C. Addition of 4N hydrochloric acid to pH=2-3 gave the title compound (0.42 g; 92%) as a precipitate. M.p.>300° C. decomp.

reactant | 1-(2-ethoxycarbonylethyl)-7-nitro[1,2,4]triazolo[4,3-a]quinoxalin-4(5H)-one | ~1.5 mmol, 0.5 g | C(C)OC(=O)CCC1=NN=C2N1C1=CC=C(C=C1NC2=O)[N+](=O)[O-] | C14H13N5O5
reactant | sodium hydroxide | 2N, 1.5 ml | [OH-].[Na+]
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | water | 50 ml | O | H2O
product | 1-(2-Carboxyethyl)-7-nitro[1,2,4]triazolo[4,3-a]quinoxalin-4(5H)-one | 0.42 g, 92% | C(=O)(O)CCC1=NN=C2N1C1=CC=C(C=C1NC2=O)[N+](=O)[O-] | C12H9N5O5
